US04012524
2,2-Dimethyl-6,7-dichloro-1,5-indanediol is prepared following substantially the same procedure described in Example 4, Step E, using the following substances: 2,2-dimethyl-5-hydroxy-6,7-dichloro-1-indanone (6.1 g., 0.025 mole); sodium bis-(2-methoxyethoxy)-aluminum hydride (70% in benzene) 8 ml.; tetrahydrofuran (75 ml.). The above procedure gives 2,2-dimethyl-6,7-dichloro-1,5-indanediol.

reactant | 2,2-dimethyl-5-hydroxy-6,7-dichloro-1-indanone | 0.025 mole, 6.1 g | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C11H10Cl2O2
reactant | sodium bis-(2-methoxyethoxy)-aluminum hydride | 8 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-6,7-dichloro-1,5-indanediol | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)O)C | C11H12Cl2O2
